d latch
.incl tsmc18.sp

* Parameters
.param wp=0.3u
.param wn=0.3u

* Power source
vdd vdd 0 dc 1.8

* Signals
vclk clk 0 pulse 1.8 0 10.5n 10p 
vin d 0 pulse 0 1.8 100p 10p 10p 5n 10n

m1 dn d vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
m2 n1 d vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
m3 n1 clk vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
m4 n2 clk vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
m5 n2 dn vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'


m6 qn q n1 vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
m7 q qn n2 vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'

m8 dn d 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
m9 qn d n3 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
m10 n3 clk 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
m11 qn q 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
m12 q qn 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
m13 q dn n4 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'
m14 n4 clk 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'

c1 q 0 20f
c2 qn 0 20f

.control

tran 5p 20n
meas tran tphl TRIG v(d) VAL=0.9 RISE=1 TARG v(q) VAL=0.9 FALL=1
meas tran tplh TRIG v(d) VAL=0.9 FALL=1 TARG v(q) VAL=0.9 RISE=1

plot c(clk) v(d)+2 v(q)+4

.endc
.end